US05665718
4.4 g (13.8 mmol) of (S)-8-chloro-9-oxo-12,12a-dihydro-9H,11H-azeto[2,1-c]-imidazo[1,5-a][1,4]benzodiazepine-1-carboxylic acid hydrazide were stirred at room temperature overnight in 30 ml of N,N-dimethylformamide with 2.65 g (15.5 mmol) of chloroacetic anhydride. After evaporating the solvent the residue was stirred at room temperature for 48 hours with 20 ml of a 10% solution of phosphorus pentoxide in methanesulphonic acid. The reaction mixture was treated with ice, made alkaline with conc. sodium hydroxide solution and extracted four times with methylene chloride. By drying the organic phase over magnesium sulfate and evaporating the solvent there were obtained 3.39 g (60%) of (S)-8-chloro-1-(5-chloromethyl-1,3,4-oxadiazol-2-yl)-12,12a-dihydro-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepin-9-one of m.p. 185°-189°.

reactant | (S)-8-chloro-9-oxo-12,12a-dihydro-9H,11H-azeto[2,1-c]-imidazo[1,5-a][1,4]benzodiazepine-1-carboxylic acid hydrazide | 13.8 mmol, 4.4 g | ClC1=CC=CC2=C1C(N1[C@H](C=3N2C=NC3C(=O)NN)CC1)=O | C14H12ClN5O2
reactant | chloroacetic anhydride | 15.5 mmol, 2.65 g | ClCC(=O)OC(CCl)=O | C4H4Cl2O3
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | (S)-8-chloro-1-(5-chloromethyl-1,3,4-oxadiazol-2-yl)-12,12a-dihydro-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepin-9-one | 3.39 g, 60% | ClC1=CC=CC2=C1C(N1[C@H](C=3N2C=NC3C=3OC(=NN3)CCl)CC1)=O | C16H11Cl2N5O2
